US04107157
5-(β-Carboethoxy-α-methyl-ethyl)-barbituric acid was treated with allyl bromide at 50° C. to afford 5-allyl-5-(β-carboethoxy-α-methyl-ethyl)-barbituric acid, m.p. 114°. Alkaline saponification of this compound afforded 5-allyl-5-(β-carboxy-α-methyl-ethyl)-barbituric acid, which was recrystallized from water, m.p. 200°.

reactant | 5-(β-Carboethoxy-α-methyl-ethyl)-barbituric acid | C(=O)(OCC)CC(C)C1C(NC(NC1=O)=O)=O | C10H14N2O5
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 5-allyl-5-(β-carboethoxy-α-methyl-ethyl)-barbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)C(CC(=O)OCC)C | C13H18N2O5
